US03932411
5-{3-[4-(4-methoxyphenyl)-1-piperazinyl]-propoxy}-3,4-dihydro-2H-naphthalene-1-one
from 5-hydroxy-1-oxotetraline and 1-(3-chloropropyl)-4-(4-methoxyphenyl)-piperazine; yield 84.5% of theory; m.p. of the hydrochloride (recrystallized from ethanol) 191°-192°C;

reactant | 5-hydroxy-1-oxotetraline | OC1=C2CCCC(C2=CC=C1)=O | C10H10O2
reactant | 1-(3-chloropropyl)-4-(4-methoxyphenyl)-piperazine | ClCCCN1CCN(CC1)C1=CC=C(C=C1)OC | C14H21ClN2O
reactant | hydrochloride | Cl | ClH
product | 5-{3-[4-(4-methoxyphenyl)-1-piperazinyl]-propoxy}-3,4-dihydro-2H-naphthalene-1-one | yield 84.5% | COC1=CC=C(C=C1)N1CCN(CC1)CCCOC1=C2CCCC(C2=CC=C1)=O | C24H30N2O3
